US04152442
(c) N-Hexyl-N-(5-methyl-1,3,4-thiadiazol-2-yl)-benzeneacetamide.
N-(5-Methyl-1,3,4-thiadiazol-2-yl)-hexylamine (5.98 g, 0.03 mole) in toluene (60 ml) was stirred together with triethylamine (4.59 ml) and phenylacetyl chloride (4.64 g, 0.03 mole) and refluxed overnight. Further triethylamine (4.6 ml) and phenylacetyl chloride (4 ml) were added and refluxing was continued for a further 24 hours. The mixture was evaporated to dryness, treated with water and extracted with chloroform. The chloroform extract was washed with 2N sodium hydroxide solution and with water, and was dried (Na2SO4), filtered and evaporated to yield the title product as an oil, b.p. 190° C./0.1 mm (8.03 g). This was recrystallised from ethanol to give the title compound as a solid, m.p. 90° C.

reactant | N-(5-Methyl-1,3,4-thiadiazol-2-yl)-hexylamine | 0.03 mole, 5.98 g | CC1=NN=C(S1)NCCCCCC | C9H17N3S
reactant | triethylamine | 4.59 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.03 mole, 4.64 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 4 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-Hexyl-N-(5-methyl-1,3,4-thiadiazol-2-yl)-benzeneacetamide | C(CCCCC)N(C(CC1=CC=CC=C1)=O)C=1SC(=NN1)C | C17H23N3OS
